US06573289B1
Production of 1-(1H-Imidazol-4-yl)-1-(6-methoxynaphthalen-2-yl)ethanol
(6-Methoxynaphthalen-2-yl)-(1-trityl-1H-imidazol-4-yl)ketone (2.50 g) was dissolved in THF (20 ml), and the solution was cooled to 0° C. To the solution was slowly added dropwise a solution of methylmagnesium bromide in ether (3.0M, 3.4 ml), and the mixture was stirred for 20 min at 0° C. To the reaction mixture was added saturated aqueous solution of ammonium chloride and water. The mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous solution of sodium chloride, dried and concentrated to give the titled compound (2.51 g) as a colorless powder.

reactant | (6-Methoxynaphthalen-2-yl)-(1-trityl-1H-imidazol-4-yl)ketone | 2.50 g | COC=1C=C2C=CC(=CC2=CC1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H26N2O2
reactant | methylmagnesium bromide | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | O | H2O
reactant | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ether | 3.0M, 3.4 ml | CCOCC | C4H10O
product | 1-(1H-Imidazol-4-yl)-1-(6-methoxynaphthalen-2-yl)ethanol | 2.51 g | N1C=NC(=C1)C(C)(O)C1=CC2=CC=C(C=C2C=C1)OC | C16H16N2O2
